US07943609B2
(11S)-2-(Benzyloxy)-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline 5-oxide (2.02 g, 5.59 mmol) and trichloroacetyl isocyanate (0.87 mL, 7.27 mmol) were dissolved in dichloromethane (50 mL) under an atmosphere of N2. After one hour, the reaction was quenched with a small amount of methanol, and the solvent was removed under reduced pressure. The resulting residue was suspended in methanol (50 mL) and treated with NaOMe (25% in MeOH, 8 mL) for 20 hours. The volatiles were removed under reduced pressure and the residue was partitioned between dichloromethane and water, adjusting to pH 11 with NH4OH. The aqueous layer was extracted with dichloromethane (3×). The combined organic layers were then washed with brine and dried over Na2SO4, filtered, and concentrated to give a light-brown foam. Chromatography (SiO2, 0-20% CMA/CHCl3) gave (11R)-2-(benzyloxy)-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (1.35 g) as an off white solid, mp 100-120° C.

reactant | (11S)-2-(Benzyloxy)-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline 5-oxide | 5.59 mmol, 2.02 g | C(C1=CC=CC=C1)OC=1C=C2C3=C(C=[N+](C2=CC1)[O-])N=C1N3[C@H](COC1)C | C21H19N3O3
reactant | trichloroacetyl isocyanate | 7.27 mmol, 0.87 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (11R)-2-(benzyloxy)-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 1.35 g | C(C1=CC=CC=C1)OC=1C=C2C3=C(C(=NC2=CC1)N)N=C1N3[C@@H](COC1)C | C21H20N4O2
